US04078076
A solution of 5.2 g of sodium nitrite in 10 ml of water was added to a mixture of 13 g of 4-(p-aminophenyl)-tetrahydropyran and 100 ml of concentrated sulfuric acid cooled to 5° C and the mixture was stirred at 5° C for 30 minutes. The mixture was poured into a solution of 100 ml of water and 10 ml of concentrated sulfuric acid heated to 75°-80° C and the mixture was held at 75°-80° C for 15 minutes and was then cooled to 4° C. The mixture was filtered and the recovered crystals were washed with water and dried to obtain 12.7 g of 4-(p-hydroxyphenyl)-tetrahydropyran melting at 164° C.

reactant | sodium nitrite | 5.2 g | N(=O)[O-].[Na+]
reactant | 4-(p-aminophenyl)-tetrahydropyran | 13 g | NC1=CC=C(C=C1)C1CCOCC1 | C11H15NO
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-(p-hydroxyphenyl)-tetrahydropyran | 12.7 g | OC1=CC=C(C=C1)C1CCOCC1 | C11H14O2
